US08835427B2
Step B: Preparation of 2-chloro-1-[5-(2,6-difluorophenyl)-4,5-dihydroisoxazol-3-yl]ethanone
To a stirred solution of 3-chloro-N-hydroxy-2-oxopropanimidoyl chloride (0.89 g, 5.71 mmol) in acetonitrile (20 mL) was added 2-ethenyl-1,3-difluorobenzene (1.0 g, 7.14 mmol) and sodium bicarbonate (1.8 g, 2.14 mmol) at room temperature. The reaction mixture was stirred at room temperature for 12 h, concentrated in under reduced pressure and the resulting material was partitioned between ethyl acetate (50 mL) and water (50 mL). The organic layer was separated, washed with saturated aqueous sodium chloride solution and concentrated in under reduced pressure. The resulting material was triturated with petroleum ether and filtered to provide the title product as white solid (1.1 g) melting at 82.1-83.4° C.

reactant | 3-chloro-N-hydroxy-2-oxopropanimidoyl chloride | 5.71 mmol, 0.89 g | ClCC(C(=NO)Cl)=O | C3H3Cl2NO2
reactant | 2-ethenyl-1,3-difluorobenzene | 7.14 mmol, 1.0 g | C(=C)C1=C(C=CC=C1F)F | C8H6F2
reactant | sodium bicarbonate | 2.14 mmol, 1.8 g | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 2-chloro-1-[5-(2,6-difluorophenyl)-4,5-dihydroisoxazol-3-yl]ethanone | 1.1 g | ClCC(=O)C1=NOC(C1)C1=C(C=CC=C1F)F | C11H8ClF2NO2
